US08071595B2
To a stirred solution of 5-(4-hydroxyphenyl)-4-(4-methoxyphenyl)-2,2-dimethylfuran-3(2H)-one (600 mg, 1.93 mol) in acetonitrile (50 mL) was added K2CO3 (800 mg, 5.8 mol). 2-Chloromethyl quinoline (500 mg, 2.32 mol) was added dropwise under an inert atmosphere. The reaction mixture was stirred at 80° C. for 16 h and then partitioned between water and EtOAc (200 mL). The organic layer was separated, washed with water, dried over Na2SO4 and then concentrated in vacuo to obtain a residue. The residue was purified via silica gel column chromatography to afford 4-(4-methoxyphenyl)-2,2-dimethyl-5-(4-(quinolin-2-ylmethoxy)phenyl)furan-3(2H)-one (0.51 g, 58%) as a white solid. 1H NMR (500 MHz, d6-DMSO): δ 8.45 (d, J=7.2 Hz, 1H), 8.02-7.97 (m, 2H), 7.85-7.77 (m, 1H), 7.76-7.68 (m, 2H), 7.59-7.51 (m, 2H), 7.19-7.11 (m, 4H), 6.95 (d, J=7.4 Hz, 2H), 5.41 (s, 2H), 3.75 (s, 3H), 1.45 (s, 6H). MS: M+H: m/z=452.1.

reactant | 5-(4-hydroxyphenyl)-4-(4-methoxyphenyl)-2,2-dimethylfuran-3(2H)-one | 1.93 mol, 600 mg | OC1=CC=C(C=C1)C1=C(C(C(O1)(C)C)=O)C1=CC=C(C=C1)OC | C19H18O4
reactant | K2CO3 | 5.8 mol, 800 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloromethyl quinoline | 2.32 mol, 500 mg | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4-(4-methoxyphenyl)-2,2-dimethyl-5-(4-(quinolin-2-ylmethoxy)phenyl)furan-3(2H)-one | 0.51 g, 58% | COC1=CC=C(C=C1)C=1C(C(OC1C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)(C)C)=O | C29H25NO4
